US05344812
By the method of Example 1, Step F, 8.27 g (0.060 mole) of 4-methylsalicylaldehyde and 11.15 g (0.073 mole) of methyl bromoacetate were reacted in the presence of 10.1 g (0.073 mole) of anhydrous potassium carbonate in 150 mL of acetone, yielding 11.47 g of methyl (2-formyl-5-methylphenoxy)acetate as a white solid, m. p. 63°-64° C. The NMR was consistent with the proposed structure.

reactant | 4-methylsalicylaldehyde | 0.060 mole, 8.27 g | CC=1C=C(C(C=O)=CC1)O | C8H8O2
reactant | methyl bromoacetate | 0.073 mole, 11.15 g | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 0.073 mole, 10.1 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 mL | CC(=O)C | C3H6O
product | methyl (2-formyl-5-methylphenoxy)acetate | 11.47 g | C(=O)C1=C(OCC(=O)OC)C=C(C=C1)C | C11H12O4
